US04294960
7-Amino-3-cephem-4-carboxylic acid (1.7 g.) and sodium bicarbonate (2.84 g.) were dissolved in a mixture of water (35 ml.) and acetone (35 ml.). On the other hand, phosporus oxychloride (1.95 ml.) was added dropwise to a suspension of 2-(2-amino-4-thiazolyl)-2-methoxyiminoacetic acid (syn-isomer: 3.42 g.) in dry ethyl acetate (34 ml.) over 10 minutes at 0° to 6° C., and the mixture was stirred at the same temperature for 30 minutes. To the solution was added dropwise a solution of trimethylsilylacetamide (2.39 g.) in ethyl acetate (5ml.) at 0° to 6° C. over 20 minutes, and the mixture was stirred for 20 minutes. After phosphorus oxychloride (19.5 ml.) was added dropwise to the mixture at the above temperature over 10 minutes, the mixture obtained thus was stirred for 30 minutes. And further, dimethylformamide (1.29 ml.) was added dropwise to the mixture over 10 minutes at the same temperature and stirred for one hour to give a clear solution. The solution was added dropwise to the solution of 7-amino-3-cephem-4-carboxylic acid at -5° to 5° C., over 30 minutes, at pH 6.5 to 7.5, and the reaction mixture was stirred for one hour at the same temperature. Ethyl acetate (200 ml.) was added to the resultant solution, and the aqueous layer was separated, washed with methylene chloride, bubbled with nitrogen gas and adjusted to pH 4 with acetic acid. The solution was subjected to column chromatography on macroporous, non-ionic adsorption resin "Diaion HP-20" (Trade mark: manufactured by Mitsubishi Chemical Industries Ltd.) and eluted with 20% aqueous solution of isopropyl alcohol. The eluate was concentrated under reduced pressure and lyophilized to give 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer: 2.0 g.) The product was identified with the authentic sample by IR and NMR spectrum.

reactant | 7-Amino-3-cephem-4-carboxylic acid | 1.7 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | sodium bicarbonate | 2.84 g | C([O-])(O)=O.[Na+]
reactant | oxychloride | 1.95 ml | O(Cl)Cl | Cl2O
reactant | 2-(2-amino-4-thiazolyl)-2-methoxyiminoacetic acid | 3.42 g | NC=1SC=C(N1)C(C(=O)O)=NOC | C6H7N3O3S
reactant | trimethylsilylacetamide | 2.39 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphorus oxychloride | 19.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 35 ml | O | H2O
solvent | acetone | 35 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 34 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1.29 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C13H13N5O5S2
